data/oMe_Silver.jsonl
{"reaction_id": "NR-126_1-c1cnccc1","name": "Kornblum Oxidation","level": "medium","reactants_smiles": ["C(c1cnccc1)Cl","C[S+]([O-])C"],"products_smiles": ["C(c1cnccc1)=O"],"conditions": "CCN(CC)CC","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1cnccc1)O[S+](C)C","rationale": "The sulfoxide oxygen is nucleophilic due to its lone pairs and polarization; it attacks the electrophilic carbon bearing the good leaving group Cl, favored by the polar aprotic amine solvent that stabilizes the transition state."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)O[S+](C)[CH2-]","rationale": "The basic environment provided by the tertiary amine abstracts the acidic α-proton adjacent to the positively charged sulfur, driven by stabilization of the resulting carbanion through the adjacent sulfonium group."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1cnccc1)=O","rationale": "The carbanion collapses, expelling the neutral dimethyl sulfide leaving group; this elimination is favored by the stability of the carbonyl product and the volatility of the leaving group."}],"description": "In the Kornblum oxidation, dimethyl sulfoxide acts as a nucleophile toward an alkyl halide, forming an alkoxysulfonium intermediate. Under basic conditions, deprotonation facilitates elimination of a sulfenic species, yielding the carbonyl product via a mild, non-aqueous oxidation pathway."}
{"reaction_id": "NR-338_1-c1ccc(Cl)cc1_2-c1ccccc1_3-Cl_4-c1ccc(C)cc1_5-c1ccccc1","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(c1ccccc1)Cl)(c1ccc(Cl)cc1)O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1","O=C(OO)c1ccccc1"],"products_smiles": ["C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccccc1)Cl)c1ccc(Cl)cc1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccc(Cl)cc1)C(c1ccccc1)(Cl)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccc(Cl)cc1)C([O-])(c1ccccc1)Cl","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccccc1)Cl)c1ccc(Cl)cc1","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
